US04297350
Following the general procedure of U.S. Pat. No. 3,135,743, Example 12, but starting with 17β-methoxy-5α-androstan-3-one and using benzoic acid and benzoic acid anhydride in place of acetic acid and acetic anhydride, 2-benzoyl-17β-methoxy-5α-androstan-3-one is obtained.

reactant | 17β-methoxy-5α-androstan-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H32O2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | benzoic acid anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-benzoyl-17β-methoxy-5α-androstan-3-one | C(C1=CC=CC=C1)(=O)C1C(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)OC)=O | C27H36O3
